US07166622B2
4-Chloro-N-methyl-N-[(1S,2S)-1-(hydroxymethyl)-2-methylbutyl]benzenesulfonamide
To a solution of 4-chloro-N-[(1S,2S)-1-(hydroxymethyl)-2-methylbutyl]benzenesulfonamide (0.10 g, 0.343 mmol) dissolved in DMF (2.0 mL) was added potassium carbonate (47 mg, 0.343 mmol). After 30 minutes, the reaction mixture was cooled to 0° C. and iodomethane (50 μL, 0.686 mmol) was added. After 2 hours, the ice bath was removed and the reaction mixture was stirred at 25° C. for 24 hours. The insolubles were then filtered off and the DMF solution was diluted with EtOAc (50 mL) and washed sequentially with 10% citric acid (50 mL) and saturated brine (50 mL), dried over MgSO4 and evaporated to a clear oil which was washed with Et2O and then purified by flash chromatography (eluant: 95-5 CHCl3/iPrOH) to afford the desired product as a clear oil (71 mg, 68%). Mass Spectrum (+APCI): 306 ([M+H]+). Anal: Calc'd for C13H20ClNO3S: C, 51.06; H, 6.59; N, 4.58. Found: C, 51.15; H, 6.73; N, 4.36.

reactant | 4-chloro-N-[(1S,2S)-1-(hydroxymethyl)-2-methylbutyl]benzenesulfonamide | 0.343 mmol, 0.10 g | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]([C@H](CC)C)CO | C12H18ClNO3S
reactant | potassium carbonate | 0.343 mmol, 47 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.686 mmol, 50 μL | IC | CH3I
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-N-methyl-N-[(1S,2S)-1-(hydroxymethyl)-2-methylbutyl]benzenesulfonamide | 71 mg, 68% | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H]([C@H](CC)C)CO)C | C13H20ClNO3S
